US08445684B2
4-(Dimethylamino)pyridine (DMAP; 14 mg, 0.11 mmol, 0.2 equiv.), Et3N (0.24 mL, 1.7 mmol, 3.0 equiv.), and p-toluenesulfonyl chloride (164 mg, 0.86 mmol, 1.5 equiv.) were added to a stirred solution of 2-[(1S,2R)-2-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]cyclopropyl]ethanol (200 mg, 0.57 mmol) in dry CH2Cl2 (5 mL) at 0° C. The reaction mixture was stirred at room temperature overnight, then diluted with CH2Cl2 (50 mL). The organic phase was washed with aqueous NaHCO3 and brine, dried over Na2SO4, and concentrated. The residue was purified by CC (SiO2, 60-70% EtOAc in hexane as the eluent) to give 2-[(1S,2R)-2-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]cyclopropyl]ethyl p-toluenesulfonate (175 mg, 82%), which was directly used for the next reaction.

reactant | Et3N | 1.7 mmol, 0.24 mL, 3.0 equiv. | CCN(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 0.86 mmol, 164 mg, 1.5 equiv. | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-[(1S,2R)-2-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]cyclopropyl]ethanol | 0.57 mmol, 200 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)[C@H]1[C@@H](C1)CCO | C19H28N2O4
catalyst | 4-(Dimethylamino)pyridine | 0.11 mmol, 14 mg, 0.2 equiv. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-[(1S,2R)-2-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]cyclopropyl]ethyl p-toluenesulfonate | 175 mg, 82% | C1(=CC=C(C=C1)S(=O)(=O)OCC[C@H]1[C@@H](C1)C=1C=NC=C(C1)OC[C@H]1N(CC1)C(=O)OC(C)(C)C)C | C26H34N2O6S
